Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
weakness, confusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 
___ ___ female with hx of DM (on insulin),
migraines, HLD who presents with generalized weakness and
confusion after recent admission in ___ for possible seizures
and transient L facial droop.

Pt is followed by Dr. ___ at ___ and was last seen ___
for an intake visit (after transitioning care from prior PCP) 
Dr.
___. Patient is ___ speaking. History obtained with
aid of granddaughter, ___, who also interprets at the
patient's request.

___ reports that the patient has had chronic migraines for
the last ___s DM, for which she uses insulin.
She was reportedly in her usual state of health, ambulating well
without assistance, when she traveled to ___ to visit family 
on
___. Circumstances surrounding her condition while in
___ are unclear, as the patient has little recollection of the
events and the patient's family in ___ could not be reached by
___ this evening. Reportedly, while in ___ the patient was
noted by her son to have more difficulty ambulating, a transient
L facial droop that resolved spontaneously, and "shaking
episodes" without tongue-biting or B/B incontinence (unclear
whether she was alert during these episodes; patient does not
recall). She was admitted to a hospital in ___ patient nor ___ recall the name of the hospital) 
and
treated, ___ believes, for a urinary tract infection and
"mini-seizures". Unclear what imaging, if any, was performed. An
LP was reportedly recommended, which family declined for
financial reasons. No new medications were prescribed on
discharge. Discharge paperwork is not available at present, but
___ will bring what she describes as a limited and "useless"
summary tomorrow. Ms. ___ was discharged on ___ and
immediately returned to ___, where she lives with her son. 

Since her return, she has been less active (has mostly been
"sitting on the couch," has required some assistance with
ambulation) and mildly confused, both of which are highly 
unusual
for her. She was supposed to see her PCP today, but given her
symptoms the family opted to bring her to the ED instead. When
asked, Ms. ___ states that she has felt a bit fatigued the
past few days but currently feels well. She does not recall
weakness, a facial droop, or seizures in ___ and does not know
why she was admitted to the hospital there. She endorses some
urinary frequency but denies dysuria. No headaches since her
return from ___, and no vision changes, neck stiffness, or
fevers. In addition, she denies CP, SOB, cough, abdominal pain,
N/V, diarrhea/constipation, melena/hematochezia, new rashes. She
ran out of her insulin while in ___ and has not been using it
reliably since her return. Family reports that she looks much
better now than at home and is back to her sharp mental status
baseline. 

ED:
AF, BP 136/80, HR 95, RR 16, 99% RA
Exam: Systolic murmur RUSB, crackles at bases b/l, neuro exam
intact
Labs: CBC WNL, BMP notable for glu 334, K 3.6->3.2, INR 1.1, 
LFTs
WNL, lipase 30, alb 3.4, Trop <0.01, A1c 9.8%, VBG 7.39/47, lact
1.5, UA with 42 WBCs, ___
Imaging: NCHCT neg, CXR with streaky opacity L base, likely
atelectasis
Tx: CTX 1g, Insulin (total 47u), KCl 60meq

On arrival to the floor, Ms. ___ states she feels well and 
is
currently without complaints.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
DM
Cataracts
Glaucoma
 
Social History:
___
Family History:
================
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
VITALS: 
T 99.3, BP 145/77, HR 97, RR 19, 96% RA
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: faint crackles at bases b/l
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation; no CVA
tenderness
SKIN: No rashes or ulcerations noted
MSK: Lower extremities warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
mild L pronator drift, sensation grossly intact throughout, 2+
achilles/patellar reflexes, downgoing toes b/l, negative 
Romberg,
neg Kernig's/Brudzinski's, tentative but nl gait
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 06:00AM BLOOD WBC-5.7 RBC-4.39 Hgb-12.3 Hct-38.4 MCV-88 
MCH-28.0 MCHC-32.0 RDW-13.2 RDWSD-42.7 Plt ___
___ 11:40AM BLOOD WBC-6.9 RBC-4.35 Hgb-12.4 Hct-38.0 MCV-87 
MCH-28.5 MCHC-32.6 RDW-13.3 RDWSD-42.5 Plt ___
___ 11:20PM BLOOD WBC-6.9 RBC-4.52 Hgb-12.9 Hct-39.7 MCV-88 
MCH-28.5 MCHC-32.5 RDW-13.2 RDWSD-42.8 Plt ___
___ 11:20PM BLOOD Neuts-54.9 ___ Monos-10.3 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-3.77 AbsLymp-2.28 AbsMono-0.71 
AbsEos-0.08 AbsBaso-0.03
___ 11:20PM BLOOD ___ PTT-25.4 ___
___ 06:00AM BLOOD Glucose-267* UreaN-7 Creat-0.5 Na-139 
K-4.1 Cl-103 HCO3-27 AnGap-9*
___ 11:40AM BLOOD Glucose-139* UreaN-7 Creat-0.6 Na-143 
K-3.2* Cl-103 HCO3-28 AnGap-12
___ 11:20PM BLOOD Glucose-334* UreaN-9 Creat-0.6 Na-136 
K-3.6 Cl-96 HCO3-27 AnGap-13
___ 11:40AM BLOOD CK(CPK)-82
___ 11:20PM BLOOD ALT-13 AST-18 AlkPhos-103 TotBili-0.2
___ 11:20PM BLOOD Lipase-30
___ 11:20PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.9
___ 11:40AM BLOOD Calcium-8.8 Phos-2.4* Mg-1.9 Cholest-206*
___ 11:20PM BLOOD Albumin-3.4*
___ 11:40AM BLOOD VitB12-849
___ 11:40AM BLOOD %HbA1c-9.8* eAG-235*
___ 11:40AM BLOOD Triglyc-133 HDL-35* CHOL/HD-5.9 
LDLcalc-144*
___ 11:40AM BLOOD TSH-1.3

NCHCT (___):
1. No evidence of acute large territorial infarction.  Please
note that MRI is more sensitive in the detection of acute
infarct. 
2. Age-related involutional change and sequelae of chronic small
vessel ischemic disease. 

CXR (___):
Streaky opacities in the left lung base are favored to represent
atelectasis, however pneumonia is not excluded in the 
appropriate
clinical setting. 

EKG (___):
NSR at 92 bpm, nl axis, PR 125, QRS 70, QTC 455, no acute
ischemic changes

MRI brain:
IMPRESSION: 
1. No acute intracranial abnormality on noncontrast MRI head.  
Specifically no acute intracranial hemorrhage or infarct. 
2. Mild changes of chronic white matter microangiopathy. 
3. Additional findings described above. 

Carotids:
IMPRESSION:  
Less than 40% stenosis in the left internal carotid artery. 
Normal right carotid artery ultrasound. 

___ SEROLOGY/BLOOD RAPID PLASMA REAGIN 
TEST-FINAL EMERGENCY WARD negative
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
mixed flora. 

 
  

 
Brief Hospital Course:
___ ___ female with hx of DM (on insulin),
migraines, HLD who presents with generalized weakness and
confusion in setting of recent admission in ___ for possible
seizures and transient L facial droop.

# Generalized weakness:
# Toxic metabolic encephalopathy:
Patient presented with generalized weakness for approximately 1
week and intermittent confusion in setting of possible TIA vs
seizure (see below). Ddx includes UTI given report of urinary
frequency (which may be attributable to glucosuria in absence of
dysuria or fevers), positive UA, and improvement after
antibiotics in the ED but uCX was mixed flora and abx were 
discontinued. Pt also denied dysuria. Low suspicion for 
meningitis in absence of
fevers/headache/neck stiffness or meningismus on exam. Doubt PNA
in absence of fevers/cough/SOB. No objective weakness on exam,
and mental status quickly returned to baseline during admission. 
CK WNL. ___ recommended a few visits and then pt was discharged 
home with ___. Neuro w/u pursued below.

# Possible L facial droop, now resolved:
# Possible seizures:
Family reports transient L-sided facial droop and "shaking
events" while in ___, for which patient was hospitalized.
Unclear what imaging, if any, was done during that admission. No
focal neurologic findings on exam and NCHCT negative, but hx
concerning for TIA vs seizure. Low suspicion for meningitis in
absence of fevers/headache/neck stiffness or meningismus on 
exam.
NIHSS 0. b12, Rpr WNL. Head CT and carotid u/s unrevealing. 
Continuous EEG did not show any evidence of seizure activity. 
Brain MRI was overall unrevealing.  Neurology was consulted and 
felt that presentation was most likely related to her diabetes 
and not taking her insulin as prescribed. Tele did not reveal 
any arrhythmic events. Pt worked with ___ and was dc'd home with 
___.  

# Hyperglycemia:
# Diabetes mellitus:
A1c 9.8% with hyperglycemia to 300s. Patient has been
non-adherent to home insulin recently in setting of running out
of insulin at home. She was continued on her home glargine 18u 
QHS and Humalog 15u w/breakfast, 20u with lunch. She was given 
insulin teaching. BS fairly well controlled during admission. 
She will be dc'd with ___ and family was given additional 
resources for home assistance after DC. 

# HLD:
LDL 144, Tchol 206. Given DM, would likely benefit from
moderate-intensity statin. Initiated atorvastatin 20mg daily

# Hypokalemia:
improved.

# Glaucoma:
continued home latanoprost

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 18 Units Bedtime
Novolog 15 Units Breakfast
Novolog 20 Units Lunch
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Glargine 18 Units Bedtime
Novolog 15 Units Breakfast
Novolog 20 Units Lunch
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL AS DIR 
18 Units before BED; Disp #*30 Vial Refills:*0
RX *insulin lispro [Humalog U-100 Insulin] 100 unit/mL AS DIR 15 
Units before BKFT; 20 Units before LNCH; Disp #*60 Vial 
Refills:*0 
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.rolling walker 
Rolling walker 
dx: unsteady gait
Px: good
___: 13 months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
confusion/encephalopathy
unsteady gait
diabetes 
hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for evaluation of confusion and unsteadiness. 
For this, you had several studies such as a CT scan, MRI, xray, 
EEG that were unrevealing and you were also seen by the 
neurology team. The physical therapists worked with you and 
recommended home physical therapy. Your symptoms at home may 
have been due to poorly controlled blood sugars and not taking 
your insulin properly. Therefore, we encourage you to continue 
to take your insulin as prescribed. 
 
Followup Instructions:
___